US04053473
By the procedure of Example 188, 2-bromo-1,3,4-thiadiazole is reacted with 1,3-diaminopropane to give 2-(3-aminopropylamino)-1,3,4-thiadiazole and this intermediate is reacted with methyl isothiocyanate to give N-methyl-N'-[3-(2-(1,3,4-thiadiazolyl)amino)propyl]thiourea.

reactant | 2-bromo-1,3,4-thiadiazole | BrC=1SC=NN1 | C2HBrN2S
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
product | 2-(3-aminopropylamino)-1,3,4-thiadiazole | NCCCNC=1SC=NN1 | C5H10N4S
